US04970218
N-(3-Nitro-4-pyridinyl)-N-propyl-1H-indol-1-amine
The title compound was prepared from N-propyl-1H-indol-1-amine and 4-chloro-3-nitropyridine in 1-methyl-2-pyrrolidinone at 100° C. for 4 hours in substantially the same manner as in Example 1, m.p. 84°-86° C.

reactant | N-propyl-1H-indol-1-amine | C(CC)NN1C=CC2=CC=CC=C12 | C11H14N2
reactant | 4-chloro-3-nitropyridine | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | N-(3-Nitro-4-pyridinyl)-N-propyl-1H-indol-1-amine | [N+](=O)([O-])C=1C=NC=CC1N(N1C=CC2=CC=CC=C12)CCC | C16H16N4O2
